US07157457B2
Intermediate 36: tert-Butyl 1H-tetraazol-5-ylmethylcarbamate
To a stirred solution of 1-(1H-tetraazol-5-yl)methanamine (6.0 g) in water (120 ml) at 22° C. was added sodium hydroxide (4.8 g), followed by dropwise addition of a solution of di-tert-butyldicarbonate (13.48 g) in methanol (20 ml). Further methanol (40 ml) was added to the mixture and stirring continued for 4 h; the mixture was then allowed to stand for 60 h at 4° C. The methanol was evaporated in vacuo and the aqueous residue acidified to approximately pH 6 with 2M aqueous hydrochloric acid. The aqueous mixture was extracted with ethyl acetate (×3) and the combined organic extracts were washed with saturated aqueous sodium chloride, dried (MgSO4) and the solvent evaporated in vacuo to give the title compound as a white solid (1.50 g).

reactant | 1-(1H-tetraazol-5-yl)methanamine | 6.0 g | N1N=NN=C1CN | C2H5N5
reactant | sodium hydroxide | 4.8 g | [OH-].[Na+]
reactant | di-tert-butyldicarbonate | 13.48 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | 120 ml | O | H2O
solvent | methanol | 20 ml | CO | CH4O
solvent | methanol | 40 ml | CO | CH4O
product | tert-Butyl 1H-tetraazol-5-ylmethylcarbamate | 1.50 g | N1N=NN=C1CNC(OC(C)(C)C)=O | C7H13N5O2
